US07429605B2
2-Methyl-3-[4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-6-(3-trifluoromethyl-phenyl)-pyridine
29 mg (0.73 mmol) of 60% sodium hydride were added to at 0° C. to a solution of 152 mg (0.70 mmol) 4-(4-[1,2,3]triazol-1-yl-butyl)-phenol in 8.0 ml N,N-dimethylformamide and stirred for 30 min. at 0° C. 200 mg (0.70 mmol) 3-chloromethyl-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine (WO 2005/049573) were given to the reaction mixture and stirring continued at room temperature (r.t.) overnight. After addition of 16 ml water the mixture was stirred for 1 h, the formed precipitate isolated by filtration, washed with water, water/methanol 1:1, n-heptane, and ether. The residue was dried at 40° C. in vacuum to give 288 mg (88%) of the title compound as beige powder.

reactant | sodium hydride | 0.73 mmol, 29 mg | [H-].[Na+]
reactant | 4-(4-[1,2,3]triazol-1-yl-butyl)-phenol | 0.70 mmol, 152 mg | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | 3-chloromethyl-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine | 0.70 mmol, 200 mg | ClCC=1C(=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C | C14H11ClF3N
reactant | water | 16 ml | O | H2O
solvent | N,N-dimethylformamide | 8.0 ml | CN(C=O)C | C3H7NO
product | 2-Methyl-3-[4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-6-(3-trifluoromethyl-phenyl)-pyridine | 288 mg, 88% | CC1=NC(=CC=C1COC1=CC=C(C=C1)CCCCN1N=NC=C1)C1=CC(=CC=C1)C(F)(F)F | C26H25F3N4O
